** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-185/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant J05a: 300 cycles, nominal period
** 3.9170 ns, injected period jitter 0.500000% RMS
** (seeded RNG, seed 185005), TR = TF = 20 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.990000n 0 2.010000n 1.8 3.944478n 1.8
+ 3.964478n 0 5.898957n 0 5.918957n 1.8 7.852344n 1.8
+ 7.872344n 0 9.805732n 0 9.825732n 1.8 11.768550n 1.8
+ 11.788550n 0 13.731368n 0 13.751368n 1.8 15.699052n 1.8
+ 15.719052n 0 17.666737n 0 17.686737n 1.8 19.626936n 1.8
+ 19.646936n 0 21.587135n 0 21.607135n 1.8 23.553121n 1.8
+ 23.573121n 0 25.519106n 0 25.539106n 1.8 27.463192n 1.8
+ 27.483192n 0 29.407278n 0 29.427278n 1.8 31.364094n 1.8
+ 31.384094n 0 33.320910n 0 33.340910n 1.8 35.273749n 1.8
+ 35.293749n 0 37.226588n 0 37.246588n 1.8 39.187736n 1.8
+ 39.207736n 0 41.148884n 0 41.168884n 1.8 43.130333n 1.8
+ 43.150333n 0 45.111782n 0 45.131782n 1.8 47.060339n 1.8
+ 47.080339n 0 49.008897n 0 49.028897n 1.8 50.966950n 1.8
+ 50.986950n 0 52.925003n 0 52.945003n 1.8 54.877555n 1.8
+ 54.897555n 0 56.830107n 0 56.850107n 1.8 58.781927n 1.8
+ 58.801927n 0 60.733746n 0 60.753746n 1.8 62.689414n 1.8
+ 62.709414n 0 64.645082n 0 64.665082n 1.8 66.599396n 1.8
+ 66.619396n 0 68.553711n 0 68.573711n 1.8 70.531014n 1.8
+ 70.551014n 0 72.508316n 0 72.528316n 1.8 74.466939n 1.8
+ 74.486939n 0 76.425562n 0 76.445562n 1.8 78.382743n 1.8
+ 78.402743n 0 80.339925n 0 80.359925n 1.8 82.311876n 1.8
+ 82.331876n 0 84.283827n 0 84.303827n 1.8 86.236971n 1.8
+ 86.256971n 0 88.190115n 0 88.210115n 1.8 90.150132n 1.8
+ 90.170132n 0 92.110148n 0 92.130148n 1.8 94.058624n 1.8
+ 94.078624n 0 96.007099n 0 96.027099n 1.8 97.981250n 1.8
+ 98.001250n 0 99.955402n 0 99.975402n 1.8 101.925413n 1.8
+ 101.945413n 0 103.895425n 0 103.915425n 1.8 105.873909n 1.8
+ 105.893909n 0 107.852394n 0 107.872394n 1.8 109.807192n 1.8
+ 109.827192n 0 111.761989n 0 111.781989n 1.8 113.722520n 1.8
+ 113.742520n 0 115.683050n 0 115.703050n 1.8 117.615445n 1.8
+ 117.635445n 0 119.547839n 0 119.567839n 1.8 121.506456n 1.8
+ 121.526456n 0 123.465073n 0 123.485073n 1.8 125.424851n 1.8
+ 125.444851n 0 127.384628n 0 127.404628n 1.8 129.322233n 1.8
+ 129.342233n 0 131.259838n 0 131.279838n 1.8 133.230322n 1.8
+ 133.250322n 0 135.200806n 0 135.220806n 1.8 137.143108n 1.8
+ 137.163108n 0 139.085410n 0 139.105410n 1.8 141.031176n 1.8
+ 141.051176n 0 142.976943n 0 142.996943n 1.8 144.910930n 1.8
+ 144.930930n 0 146.844918n 0 146.864918n 1.8 148.798429n 1.8
+ 148.818429n 0 150.751940n 0 150.771940n 1.8 152.703858n 1.8
+ 152.723858n 0 154.655776n 0 154.675776n 1.8 156.618067n 1.8
+ 156.638067n 0 158.580357n 0 158.600357n 1.8 160.530565n 1.8
+ 160.550565n 0 162.480772n 0 162.500772n 1.8 164.435780n 1.8
+ 164.455780n 0 166.390788n 0 166.410788n 1.8 168.340475n 1.8
+ 168.360475n 0 170.290161n 0 170.310161n 1.8 172.245610n 1.8
+ 172.265610n 0 174.201059n 0 174.221059n 1.8 176.153165n 1.8
+ 176.173165n 0 178.105272n 0 178.125272n 1.8 180.059407n 1.8
+ 180.079407n 0 182.013541n 0 182.033541n 1.8 183.955420n 1.8
+ 183.975420n 0 185.897299n 0 185.917299n 1.8 187.854660n 1.8
+ 187.874660n 0 189.812022n 0 189.832022n 1.8 191.767619n 1.8
+ 191.787619n 0 193.723216n 0 193.743216n 1.8 195.658611n 1.8
+ 195.678611n 0 197.594005n 0 197.614005n 1.8 199.546153n 1.8
+ 199.566153n 0 201.498300n 0 201.518300n 1.8 203.442908n 1.8
+ 203.462908n 0 205.387516n 0 205.407516n 1.8 207.348229n 1.8
+ 207.368229n 0 209.308942n 0 209.328942n 1.8 211.275661n 1.8
+ 211.295661n 0 213.242381n 0 213.262381n 1.8 215.196448n 1.8
+ 215.216448n 0 217.150515n 0 217.170515n 1.8 219.108390n 1.8
+ 219.128390n 0 221.066266n 0 221.086266n 1.8 223.025647n 1.8
+ 223.045647n 0 224.985028n 0 225.005028n 1.8 226.922970n 1.8
+ 226.942970n 0 228.860912n 0 228.880912n 1.8 230.818691n 1.8
+ 230.838691n 0 232.776470n 0 232.796470n 1.8 234.709122n 1.8
+ 234.729122n 0 236.641774n 0 236.661774n 1.8 238.612262n 1.8
+ 238.632262n 0 240.582750n 0 240.602750n 1.8 242.535584n 1.8
+ 242.555584n 0 244.488419n 0 244.508419n 1.8 246.425813n 1.8
+ 246.445813n 0 248.363206n 0 248.383206n 1.8 250.303134n 1.8
+ 250.323134n 0 252.243061n 0 252.263061n 1.8 254.212469n 1.8
+ 254.232469n 0 256.181877n 0 256.201877n 1.8 258.130726n 1.8
+ 258.150726n 0 260.079575n 0 260.099575n 1.8 262.052037n 1.8
+ 262.072037n 0 264.024499n 0 264.044499n 1.8 265.986507n 1.8
+ 266.006507n 0 267.948516n 0 267.968516n 1.8 269.889029n 1.8
+ 269.909029n 0 271.829542n 0 271.849542n 1.8 273.790453n 1.8
+ 273.810453n 0 275.751363n 0 275.771363n 1.8 277.710349n 1.8
+ 277.730349n 0 279.669334n 0 279.689334n 1.8 281.631783n 1.8
+ 281.651783n 0 283.594231n 0 283.614231n 1.8 285.542059n 1.8
+ 285.562059n 0 287.489886n 0 287.509886n 1.8 289.436806n 1.8
+ 289.456806n 0 291.383725n 0 291.403725n 1.8 293.346924n 1.8
+ 293.366924n 0 295.310123n 0 295.330123n 1.8 297.269257n 1.8
+ 297.289257n 0 299.228392n 0 299.248392n 1.8 301.196802n 1.8
+ 301.216802n 0 303.165213n 0 303.185213n 1.8 305.139165n 1.8
+ 305.159165n 0 307.113118n 0 307.133118n 1.8 309.084466n 1.8
+ 309.104466n 0 311.055814n 0 311.075814n 1.8 313.019001n 1.8
+ 313.039001n 0 314.982188n 0 315.002188n 1.8 316.939956n 1.8
+ 316.959956n 0 318.897725n 0 318.917725n 1.8 320.872879n 1.8
+ 320.892879n 0 322.848032n 0 322.868032n 1.8 324.800425n 1.8
+ 324.820425n 0 326.752817n 0 326.772817n 1.8 328.721524n 1.8
+ 328.741524n 0 330.690231n 0 330.710231n 1.8 332.653211n 1.8
+ 332.673211n 0 334.616191n 0 334.636191n 1.8 336.579587n 1.8
+ 336.599587n 0 338.542983n 0 338.562983n 1.8 340.515370n 1.8
+ 340.535370n 0 342.487758n 0 342.507758n 1.8 344.450966n 1.8
+ 344.470966n 0 346.414175n 0 346.434175n 1.8 348.381293n 1.8
+ 348.401293n 0 350.348411n 0 350.368411n 1.8 352.307787n 1.8
+ 352.327787n 0 354.267163n 0 354.287163n 1.8 356.208081n 1.8
+ 356.228081n 0 358.148999n 0 358.168999n 1.8 360.109386n 1.8
+ 360.129386n 0 362.069772n 0 362.089772n 1.8 364.033300n 1.8
+ 364.053300n 0 365.996827n 0 366.016827n 1.8 367.949258n 1.8
+ 367.969258n 0 369.901689n 0 369.921689n 1.8 371.840501n 1.8
+ 371.860501n 0 373.779313n 0 373.799313n 1.8 375.736217n 1.8
+ 375.756217n 0 377.693121n 0 377.713121n 1.8 379.656733n 1.8
+ 379.676733n 0 381.620344n 0 381.640344n 1.8 383.575383n 1.8
+ 383.595383n 0 385.530422n 0 385.550422n 1.8 387.480334n 1.8
+ 387.500334n 0 389.430245n 0 389.450245n 1.8 391.386491n 1.8
+ 391.406491n 0 393.342737n 0 393.362737n 1.8 395.302980n 1.8
+ 395.322980n 0 397.263223n 0 397.283223n 1.8 399.216583n 1.8
+ 399.236583n 0 401.169944n 0 401.189944n 1.8 403.131786n 1.8
+ 403.151786n 0 405.093628n 0 405.113628n 1.8 407.047765n 1.8
+ 407.067765n 0 409.001903n 0 409.021903n 1.8 410.947317n 1.8
+ 410.967317n 0 412.892731n 0 412.912731n 1.8 414.864176n 1.8
+ 414.884176n 0 416.835620n 0 416.855620n 1.8 418.790785n 1.8
+ 418.810785n 0 420.745949n 0 420.765949n 1.8 422.724968n 1.8
+ 422.744968n 0 424.703987n 0 424.723987n 1.8 426.672201n 1.8
+ 426.692201n 0 428.640416n 0 428.660416n 1.8 430.592079n 1.8
+ 430.612079n 0 432.543741n 0 432.563741n 1.8 434.510109n 1.8
+ 434.530109n 0 436.476476n 0 436.496476n 1.8 438.440095n 1.8
+ 438.460095n 0 440.403713n 0 440.423713n 1.8 442.377896n 1.8
+ 442.397896n 0 444.352079n 0 444.372079n 1.8 446.317116n 1.8
+ 446.337116n 0 448.282152n 0 448.302152n 1.8 450.244704n 1.8
+ 450.264704n 0 452.207256n 0 452.227256n 1.8 454.166163n 1.8
+ 454.186163n 0 456.125070n 0 456.145070n 1.8 458.090588n 1.8
+ 458.110588n 0 460.056105n 0 460.076105n 1.8 462.019934n 1.8
+ 462.039934n 0 463.983764n 0 464.003764n 1.8 465.935528n 1.8
+ 465.955528n 0 467.887293n 0 467.907293n 1.8 469.839421n 1.8
+ 469.859421n 0 471.791549n 0 471.811549n 1.8 473.762824n 1.8
+ 473.782824n 0 475.734100n 0 475.754100n 1.8 477.677946n 1.8
+ 477.697946n 0 479.621793n 0 479.641793n 1.8 481.570131n 1.8
+ 481.590131n 0 483.518469n 0 483.538469n 1.8 485.483079n 1.8
+ 485.503079n 0 487.447690n 0 487.467690n 1.8 489.397819n 1.8
+ 489.417819n 0 491.347949n 0 491.367949n 1.8 493.304557n 1.8
+ 493.324557n 0 495.261165n 0 495.281165n 1.8 497.201897n 1.8
+ 497.221897n 0 499.142629n 0 499.162629n 1.8 501.101894n 1.8
+ 501.121894n 0 503.061159n 0 503.081159n 1.8 505.021771n 1.8
+ 505.041771n 0 506.982382n 0 507.002382n 1.8 508.920182n 1.8
+ 508.940182n 0 510.857981n 0 510.877981n 1.8 512.814406n 1.8
+ 512.834406n 0 514.770830n 0 514.790830n 1.8 516.735802n 1.8
+ 516.755802n 0 518.700774n 0 518.720774n 1.8 520.662698n 1.8
+ 520.682698n 0 522.624621n 0 522.644621n 1.8 524.592865n 1.8
+ 524.612865n 0 526.561108n 0 526.581108n 1.8 528.506419n 1.8
+ 528.526419n 0 530.451731n 0 530.471731n 1.8 532.412286n 1.8
+ 532.432286n 0 534.372842n 0 534.392842n 1.8 536.342814n 1.8
+ 536.362814n 0 538.312786n 0 538.332786n 1.8 540.260041n 1.8
+ 540.280041n 0 542.207296n 0 542.227296n 1.8 544.167513n 1.8
+ 544.187513n 0 546.127730n 0 546.147730n 1.8 548.097133n 1.8
+ 548.117133n 0 550.066536n 0 550.086536n 1.8 552.027773n 1.8
+ 552.047773n 0 553.989009n 0 554.009009n 1.8 555.951536n 1.8
+ 555.971536n 0 557.914063n 0 557.934063n 1.8 559.872148n 1.8
+ 559.892148n 0 561.830233n 0 561.850233n 1.8 563.801361n 1.8
+ 563.821361n 0 565.772490n 0 565.792490n 1.8 567.727222n 1.8
+ 567.747222n 0 569.681953n 0 569.701953n 1.8 571.645371n 1.8
+ 571.665371n 0 573.608789n 0 573.628789n 1.8 575.553123n 1.8
+ 575.573123n 0 577.497458n 0 577.517458n 1.8 579.456747n 1.8
+ 579.476747n 0 581.416036n 0 581.436036n 1.8 583.381594n 1.8
+ 583.401594n 0 585.347153n 0 585.367153n 1.8 587.312202n 1.8
+ 587.332202n 0 589.277251n 0 589.297251n 1.8 591.237924n 1.8
+ 591.257924n 0 593.198597n 0 593.218597n 1.8 595.159779n 1.8
+ 595.179779n 0 597.120962n 0 597.140962n 1.8 599.083772n 1.8
+ 599.103772n 0 601.046583n 0 601.066583n 1.8 603.027485n 1.8
+ 603.047485n 0 605.008387n 0 605.028387n 1.8 606.967019n 1.8
+ 606.987019n 0 608.925652n 0 608.945652n 1.8 610.889193n 1.8
+ 610.909193n 0 612.852734n 0 612.872734n 1.8 614.810961n 1.8
+ 614.830961n 0 616.769189n 0 616.789189n 1.8 618.730498n 1.8
+ 618.750498n 0 620.691807n 0 620.711807n 1.8 622.649330n 1.8
+ 622.669330n 0 624.606853n 0 624.626853n 1.8 626.570262n 1.8
+ 626.590262n 0 628.533670n 0 628.553670n 1.8 630.490463n 1.8
+ 630.510463n 0 632.447257n 0 632.467257n 1.8 634.407261n 1.8
+ 634.427261n 0 636.367266n 0 636.387266n 1.8 638.324486n 1.8
+ 638.344486n 0 640.281707n 0 640.301707n 1.8 642.240986n 1.8
+ 642.260986n 0 644.200265n 0 644.220265n 1.8 646.158893n 1.8
+ 646.178893n 0 648.117521n 0 648.137521n 1.8 650.081306n 1.8
+ 650.101306n 0 652.045092n 0 652.065092n 1.8 654.000526n 1.8
+ 654.020526n 0 655.955960n 0 655.975960n 1.8 657.913153n 1.8
+ 657.933153n 0 659.870346n 0 659.890346n 1.8 661.821905n 1.8
+ 661.841905n 0 663.773464n 0 663.793464n 1.8 665.724832n 1.8
+ 665.744832n 0 667.676200n 0 667.696200n 1.8 669.663151n 1.8
+ 669.683151n 0 671.650101n 0 671.670101n 1.8 673.608879n 1.8
+ 673.628879n 0 675.567658n 0 675.587658n 1.8 677.520996n 1.8
+ 677.540996n 0 679.474334n 0 679.494334n 1.8 681.431414n 1.8
+ 681.451414n 0 683.388494n 0 683.408494n 1.8 685.345704n 1.8
+ 685.365704n 0 687.302915n 0 687.322915n 1.8 689.269570n 1.8
+ 689.289570n 0 691.236225n 0 691.256225n 1.8 693.198637n 1.8
+ 693.218637n 0 695.161049n 0 695.181049n 1.8 697.126525n 1.8
+ 697.146525n 0 699.092000n 0 699.112000n 1.8 701.046517n 1.8
+ 701.066517n 0 703.001034n 0 703.021034n 1.8 704.947523n 1.8
+ 704.967523n 0 706.894012n 0 706.914012n 1.8 708.860566n 1.8
+ 708.880566n 0 710.827120n 0 710.847120n 1.8 712.780411n 1.8
+ 712.800411n 0 714.733703n 0 714.753703n 1.8 716.689122n 1.8
+ 716.709122n 0 718.644540n 0 718.664540n 1.8 720.584770n 1.8
+ 720.604770n 0 722.524999n 0 722.544999n 1.8 724.477322n 1.8
+ 724.497322n 0 726.429645n 0 726.449645n 1.8 728.392051n 1.8
+ 728.412051n 0 730.354457n 0 730.374457n 1.8 732.310727n 1.8
+ 732.330727n 0 734.266997n 0 734.286997n 1.8 736.236342n 1.8
+ 736.256342n 0 738.205686n 0 738.225686n 1.8 740.161191n 1.8
+ 740.181191n 0 742.116695n 0 742.136695n 1.8 744.061946n 1.8
+ 744.081946n 0 746.007197n 0 746.027197n 1.8 747.969404n 1.8
+ 747.989404n 0 749.931612n 0 749.951612n 1.8 751.891057n 1.8
+ 751.911057n 0 753.850502n 0 753.870502n 1.8 755.819599n 1.8
+ 755.839599n 0 757.788696n 0 757.808696n 1.8 759.764920n 1.8
+ 759.784920n 0 761.741143n 0 761.761143n 1.8 763.709626n 1.8
+ 763.729626n 0 765.678109n 0 765.698109n 1.8 767.640722n 1.8
+ 767.660722n 0 769.603335n 0 769.623335n 1.8 771.568265n 1.8
+ 771.588265n 0 773.533196n 0 773.553196n 1.8 775.500382n 1.8
+ 775.520382n 0 777.467569n 0 777.487569n 1.8 779.425215n 1.8
+ 779.445215n 0 781.382861n 0 781.402861n 1.8 783.341574n 1.8
+ 783.361574n 0 785.300287n 0 785.320287n 1.8 787.240267n 1.8
+ 787.260267n 0 789.180247n 0 789.200247n 1.8 791.167398n 1.8
+ 791.187398n 0 793.154549n 0 793.174549n 1.8 795.124076n 1.8
+ 795.144076n 0 797.093603n 0 797.113603n 1.8 799.045458n 1.8
+ 799.065458n 0 800.997313n 0 801.017313n 1.8 802.957732n 1.8
+ 802.977732n 0 804.918151n 0 804.938151n 1.8 806.880945n 1.8
+ 806.900945n 0 808.843738n 0 808.863738n 1.8 810.801563n 1.8
+ 810.821563n 0 812.759387n 0 812.779387n 1.8 814.719784n 1.8
+ 814.739784n 0 816.680181n 0 816.700181n 1.8 818.654711n 1.8
+ 818.674711n 0 820.629241n 0 820.649241n 1.8 822.585041n 1.8
+ 822.605041n 0 824.540841n 0 824.560841n 1.8 826.500258n 1.8
+ 826.520258n 0 828.459674n 0 828.479674n 1.8 830.416122n 1.8
+ 830.436122n 0 832.372570n 0 832.392570n 1.8 834.352298n 1.8
+ 834.372298n 0 836.332026n 0 836.352026n 1.8 838.285279n 1.8
+ 838.305279n 0 840.238532n 0 840.258532n 1.8 842.201881n 1.8
+ 842.221881n 0 844.165230n 0 844.185230n 1.8 846.131575n 1.8
+ 846.151575n 0 848.097920n 0 848.117920n 1.8 850.049522n 1.8
+ 850.069522n 0 852.001124n 0 852.021124n 1.8 853.964581n 1.8
+ 853.984581n 0 855.928037n 0 855.948037n 1.8 857.890909n 1.8
+ 857.910909n 0 859.853781n 0 859.873781n 1.8 861.826165n 1.8
+ 861.846165n 0 863.798550n 0 863.818550n 1.8 865.752259n 1.8
+ 865.772259n 0 867.705969n 0 867.725969n 1.8 869.642139n 1.8
+ 869.662139n 0 871.578309n 0 871.598309n 1.8 873.525019n 1.8
+ 873.545019n 0 875.471729n 0 875.491729n 1.8 877.441259n 1.8
+ 877.461259n 0 879.410788n 0 879.430788n 1.8 881.358552n 1.8
+ 881.378552n 0 883.306316n 0 883.326316n 1.8 885.268338n 1.8
+ 885.288338n 0 887.230360n 0 887.250360n 1.8 889.189425n 1.8
+ 889.209425n 0 891.148490n 0 891.168490n 1.8 893.104421n 1.8
+ 893.124421n 0 895.060352n 0 895.080352n 1.8 897.017320n 1.8
+ 897.037320n 0 898.974287n 0 898.994287n 1.8 900.943858n 1.8
+ 900.963858n 0 902.913429n 0 902.933429n 1.8 904.876009n 1.8
+ 904.896009n 0 906.838590n 0 906.858590n 1.8 908.801907n 1.8
+ 908.821907n 0 910.765224n 0 910.785224n 1.8 912.714575n 1.8
+ 912.734575n 0 914.663925n 0 914.683925n 1.8 916.631204n 1.8
+ 916.651204n 0 918.598483n 0 918.618483n 1.8 920.557196n 1.8
+ 920.577196n 0 922.515909n 0 922.535909n 1.8 924.457954n 1.8
+ 924.477954n 0 926.399999n 0 926.419999n 1.8 928.371027n 1.8
+ 928.391027n 0 930.342055n 0 930.362055n 1.8 932.306110n 1.8
+ 932.326110n 0 934.270165n 0 934.290165n 1.8 936.209446n 1.8
+ 936.229446n 0 938.148728n 0 938.168728n 1.8 940.110721n 1.8
+ 940.130721n 0 942.072713n 0 942.092713n 1.8 944.013682n 1.8
+ 944.033682n 0 945.954650n 0 945.974650n 1.8 947.911486n 1.8
+ 947.931486n 0 949.868322n 0 949.888322n 1.8 951.816055n 1.8
+ 951.836055n 0 953.763788n 0 953.783788n 1.8 955.735111n 1.8
+ 955.755111n 0 957.706433n 0 957.726433n 1.8 959.666128n 1.8
+ 959.686128n 0 961.625823n 0 961.645823n 1.8 963.581507n 1.8
+ 963.601507n 0 965.537191n 0 965.557191n 1.8 967.505680n 1.8
+ 967.525680n 0 969.474170n 0 969.494170n 1.8 971.439547n 1.8
+ 971.459547n 0 973.404924n 0 973.424924n 1.8 975.372608n 1.8
+ 975.392608n 0 977.340292n 0 977.360292n 1.8 979.327676n 1.8
+ 979.347676n 0 981.315060n 0 981.335060n 1.8 983.257780n 1.8
+ 983.277780n 0 985.200501n 0 985.220501n 1.8 987.151475n 1.8
+ 987.171475n 0 989.102450n 0 989.122450n 1.8 991.057234n 1.8
+ 991.077234n 0 993.012019n 0 993.032019n 1.8 994.982203n 1.8
+ 995.002203n 0 996.952388n 0 996.972388n 1.8 998.905205n 1.8
+ 998.925205n 0 1000.858022n 0 1000.878022n 1.8 1002.817538n 1.8
+ 1002.837538n 0 1004.777055n 0 1004.797055n 1.8 1006.729407n 1.8
+ 1006.749407n 0 1008.681760n 0 1008.701760n 1.8 1010.647834n 1.8
+ 1010.667834n 0 1012.613908n 0 1012.633908n 1.8 1014.566223n 1.8
+ 1014.586223n 0 1016.518538n 0 1016.538538n 1.8 1018.483967n 1.8
+ 1018.503967n 0 1020.449396n 0 1020.469396n 1.8 1022.403175n 1.8
+ 1022.423175n 0 1024.356954n 0 1024.376954n 1.8 1026.314623n 1.8
+ 1026.334623n 0 1028.272292n 0 1028.292292n 1.8 1030.225882n 1.8
+ 1030.245882n 0 1032.179473n 0 1032.199473n 1.8 1034.136846n 1.8
+ 1034.156846n 0 1036.094219n 0 1036.114219n 1.8 1038.057072n 1.8
+ 1038.077072n 0 1040.019926n 0 1040.039926n 1.8 1041.975882n 1.8
+ 1041.995882n 0 1043.931838n 0 1043.951838n 1.8 1045.885508n 1.8
+ 1045.905508n 0 1047.839178n 0 1047.859178n 1.8 1049.781821n 1.8
+ 1049.801821n 0 1051.724464n 0 1051.744464n 1.8 1053.702496n 1.8
+ 1053.722496n 0 1055.680529n 0 1055.700529n 1.8 1057.631097n 1.8
+ 1057.651097n 0 1059.581665n 0 1059.601665n 1.8 1061.527809n 1.8
+ 1061.547809n 0 1063.473953n 0 1063.493953n 1.8 1065.441630n 1.8
+ 1065.461630n 0 1067.409306n 0 1067.429306n 1.8 1069.375430n 1.8
+ 1069.395430n 0 1071.341554n 0 1071.361554n 1.8 1073.296077n 1.8
+ 1073.316077n 0 1075.250599n 0 1075.270599n 1.8 1077.209927n 1.8
+ 1077.229927n 0 1079.169255n 0 1079.189255n 1.8 1081.130285n 1.8
+ 1081.150285n 0 1083.091315n 0 1083.111315n 1.8 1085.042044n 1.8
+ 1085.062044n 0 1086.992774n 0 1087.012774n 1.8 1088.950018n 1.8
+ 1088.970018n 0 1090.907263n 0 1090.927263n 1.8 1092.867585n 1.8
+ 1092.887585n 0 1094.827907n 0 1094.847907n 1.8 1096.786748n 1.8
+ 1096.806748n 0 1098.745588n 0 1098.765588n 1.8 1100.699673n 1.8
+ 1100.719673n 0 1102.653758n 0 1102.673758n 1.8 1104.611425n 1.8
+ 1104.631425n 0 1106.569091n 0 1106.589091n 1.8 1108.548364n 1.8
+ 1108.568364n 0 1110.527638n 0 1110.547638n 1.8 1112.491512n 1.8
+ 1112.511512n 0 1114.455386n 0 1114.475386n 1.8 1116.418675n 1.8
+ 1116.438675n 0 1118.381964n 0 1118.401964n 1.8 1120.330424n 1.8
+ 1120.350424n 0 1122.278883n 0 1122.298883n 1.8 1124.234212n 1.8
+ 1124.254212n 0 1126.189541n 0 1126.209541n 1.8 1128.138691n 1.8
+ 1128.158691n 0 1130.087841n 0 1130.107841n 1.8 1132.053187n 1.8
+ 1132.073187n 0 1134.018534n 0 1134.038534n 1.8 1135.987578n 1.8
+ 1136.007578n 0 1137.956622n 0 1137.976622n 1.8 1139.907752n 1.8
+ 1139.927752n 0 1141.858882n 0 1141.878882n 1.8 1143.812121n 1.8
+ 1143.832121n 0 1145.765359n 0 1145.785359n 1.8 1147.712021n 1.8
+ 1147.732021n 0 1149.658682n 0 1149.678682n 1.8 1151.620254n 1.8
+ 1151.640254n 0 1153.581826n 0 1153.601826n 1.8 1155.536467n 1.8
+ 1155.556467n 0 1157.491108n 0 1157.511108n 1.8 1159.461106n 1.8
+ 1159.481106n 0 1161.431104n 0 1161.451104n 1.8 1163.375648n 1.8
+ 1163.395648n 0 1165.320193n 0 1165.340193n 1.8 1167.271739n 1.8
+ 1167.291739n 0 1169.223286n 0 1169.243286n 1.8 1171.188313n 1.8
+ 1171.208313n 0 1173.153341n 0 1173.173341n 1.8 1175.121671n 1.8
+ 1175.141671n 0 1177.090000n 0 1177.110000n 1.8 1179.048500n 1.8
+ 1179.068500n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.temp 27
.control
set filetype=ascii
save v(CLK)
tran 200p 1.2u
linearize v(CLK)
wrdata tt_27c_1.80v-point000.raw v(CLK)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
